US05591846
A solution of N,N'-bis-[2-acetyloxy-1-(acetyloxymethyl)ethyl]-5-[amino]-2,4,6-triiodo-1,3-benzenedicarboxamide, (8.73 g, 10 mmol) in dry N,N-dimethylacetamide (100 ml ) was treated with 2,4-dibromobutyroyl bromide (4. 017 g, 13 mmol) under nitrogen and the mixture was stirred for 13 hours at 25° C. The dimethylacetamide was removed by distillation at 55°-60° C. under high vacuum. The resulting thick paste was dissolved in dry N,N-dimethylacetamide (160 ml) and potassium carbonate (1.80 g, 13 mmol) was added. The mixture was stirred for 60 minutes. An additional portion of potassium carbonate (1.80 g, 13.0 mmol) was added and the mixture stirred for 80 minutes. The suspended salts were filtered off and the volume of the reaction mixture was reduced to about 80 ml by vacuum distillation at 0.05-0.10 mm/Hg. The residual solution was poured slowly with rapid stirring into ice-water (900 ml). The resulting mixture was stirred overnight at 0° C. and then filtered. The collected precipitate was dried in a vacuum desiccator (P2O5) and then crystallized from acetonitrile to give an off-white powder. This product was treated with acetic anhydride (30 ml) and pyridine (42 ml) for 32 hours at 25°, after which the volatile components were completely removed under high vacuum to obtain N,N'-bis-[2-acetyloxy-1-(acetyloxymethyl)ethyl]-5-[3-bromo-2-oxo-1pyrrolidinyl]-2,4,6-triiodo-1,3-benzenedicarboxamide as a white powder (4.67 g, 45% yield), m.p. 232°-234°.

reactant | N,N'-bis-[2-acetyloxy-1-(acetyloxymethyl)ethyl]-5-[amino]-2,4,6-triiodo-1,3-benzenedicarboxamide | 10 mmol, 8.73 g | C(C)(=O)OCC(COC(C)=O)NC(=O)C1=C(C(=C(C(=C1I)N)I)C(=O)NC(COC(C)=O)COC(C)=O)I | C22H26I3N3O10
reactant | 2,4-dibromobutyroyl bromide | 13 mmol | BrC(C(=O)Br)CCBr | C4H5Br3O
reactant | potassium carbonate | 13 mmol, 1.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 13.0 mmol, 1.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | N,N-dimethylacetamide | 100 ml | CN(C(C)=O)C | C4H9NO
solvent | pyridine | 42 ml | N1=CC=CC=C1 | C5H5N
product | N,N'-bis-[2-acetyloxy-1-(acetyloxymethyl)ethyl]-5-[3-bromo-2-oxo-1pyrrolidinyl]-2,4,6-triiodo-1,3-benzenedicarboxamide | 4.67 g, 45% yield | C(C)(=O)OCC(COC(C)=O)NC(=O)C1=C(C(=C(C(=C1I)N1C(C(CC1)Br)=O)I)C(=O)NC(COC(C)=O)COC(C)=O)I | C26H29BrI3N3O11
